US05670505
A solution of 4N hydrogen chloride in ethyl acetate solution (1.5 ml) was added dropwise to a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[(4-trityl-1-piperazinyl)carbonylmethyl]piperazine (480 mg) in ethyl acetate (5 ml) at 0° C. The resulting mixture was stirred at the same temperature for 1 hour and then allowed to stand overnight. Aqueous saturated sodium bicarbonate solution (20 ml) was added to the reaction mixture, and the product was extracted with ethyl acetate. The organic phase was washed with brine and dried. After evaporation of the solvent in vacuo, the residue was purified by column chromatography on a silica gel eluting with a mixture of dichloromethane and methanol (5:1) and treated with 4N hydrogen chloride in dioxane solution to afford (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[(1-piperazinyl)carbonylmethyl]piperazine dihydrochloride (250 mg).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[(4-trityl-1-piperazinyl)carbonylmethyl]piperazine | 480 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)N2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C47H43F6N5O2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-[(1-piperazinyl)carbonylmethyl]piperazine dihydrochloride | 250 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC(=O)N2CCNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C28H29F6N5O2.2ClH/c29-27(30,31)20-11-18(12-21(14-20)28(32,33)34)26(41)39-10-9-37(17-25(40)38-7-5-35-6-8-38)16-22(39)13-19-15-36-24-4-2-1-3-23(19)24;;/h1-4,11-12,14-15,22,35-36H,5-10,13,16-17H2;2*1H/t22-;;/m1../s1
